US07902252B2
2.63. Synthesis of methyl 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.5 g, 2.79 mmol) was reacted with (3-fluorophenyl)magnesium bromide (14 mL, 6.97 mmol, 0.5 M in THF, 2.5 equiv) according to General Procedure 3. The resulting endo-olefin (methyl 4-(3-fluorophenyl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate) was converted to the title compound by hydrogenation according to General Procedure 6 (with 5% Pd/C). The crude product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound: 150 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.24-2.35 (m, 1H), 2.73-3.01 (m, 3H), 3.84 (s, 3H) 4.22 (t, J=7.13 Hz, 1H), 6.65 (d, J=1.46 Hz, 1H), 6.86-6.93 (m, 2H) 7.00 (d, J=7.66 Hz, 1H), 7.19-7.30 (m, 1H) 9.07-9.28 (m, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.79 mmol, 0.5 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | (3-fluorophenyl)magnesium bromide | 6.97 mmol, 0.5 M, 14 mL, 2.5 equiv | FC=1C=C(C=CC1)[Mg]Br
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C15H14FNO2
